US06248738B1
A solution of 1-chloro-5-chlorosulphonylisoquinoline (613 mg, 2.34 mmol) in methylene chloride saturated with ammonia gas (20 mL) was stirred at RT for 18 h, concentrated in vacuo to a white solid and purified by column chromatography upon silica gel (preabsorbed) using EtOAc-hexanes (1:1) as eluant to give 1-chloro-5-sulphamoylisoquinoline as a white solid (206 mg, 0.85 mmol).

reactant | 1-chloro-5-chlorosulphonylisoquinoline | 2.34 mmol, 613 mg | ClC1=NC=CC2=C(C=CC=C12)S(=O)(=O)Cl | C9H5Cl2NO2S
reactant | ammonia | 20 mL | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-chloro-5-sulphamoylisoquinoline | 0.85 mmol, 206 mg | ClC1=NC=CC2=C(C=CC=C12)S(N)(=O)=O | C9H7ClN2O2S
